US07776875B2
Preparation of Intermediate E/Z-2-[4-Chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-propyl-pentanoic acid ethyl ester
To the mixture of 6-chlorooxindole (9.3 g, 55.7 mmol) and 2-(4-chloro-2-formyl-phenoxy)-2-propyl-pentanoic acid ethyl ester (14 g, 42.9 mmol) in methanol (100 mL) was added pyrrolidine (3.3 g, 47.2 mmol) dropwise. The mixture was then heated at 80° C. for 2 h. After cooled to room temperature, the mixture was concentrated. The residue was purified by flash column to give the title compound (4.2 g).

reactant | 6-chlorooxindole | 55.7 mmol, 9.3 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 2-(4-chloro-2-formyl-phenoxy)-2-propyl-pentanoic acid ethyl ester | 42.9 mmol, 14 g | C(C)OC(C(CCC)(CCC)OC1=C(C=C(C=C1)Cl)C=O)=O | C17H23ClO4
reactant | pyrrolidine | 47.2 mmol, 3.3 g | N1CCCC1 | C4H9N
solvent | methanol | 100 mL | CO | CH4O
product | Z-2-[4-Chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-propyl-pentanoic acid ethyl ester | 4.2 g | C(C)OC(C(CCC)(CCC)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C25H27Cl2NO4
